data/polar.json
{"reaction_name": "Sulfinamide formation", "rsmi": "[Cl:1][S:2](=[O:3])[CH3:4].[NH2:5][H:6]>>[Cl:1][H:6].[S:2](=[O:3])([CH3:4])[NH2:5]", "epd": [["LP-/Sigma+", [5], [2, 5]], ["Pi-/LP+", [2, 3], [3]], ["LP-/Pi+", [3], [2, 3]], ["Sigma-/LP+", [1, 2], [1]], ["LP-/Sigma+", [1], [1, 6]], ["Sigma-/LP+", [5, 6], [5]]]}
{"reaction_name": "Allylic halide displacement", "rsmi": "[CH:1](=[CH2:2])[CH2:4][Br:5].[OH-:3]>>[Br-:5].[CH:1](=[CH2:2])[CH2:4][OH:3]", "epd": [["LP-/Sigma+", [3], [3, 4]], ["Sigma-/LP+", [4, 5], [5]]]}
{"reaction_name": "Dearomatizing addition to a benzopyrylium / flavylium ion", "rsmi": "[O-:3][N+:23]([O-:4])=[C:18]1[CH:17]=[CH:25][CH:16]=[CH:19][C:24]1=[O:13].[cH:1]1[cH:9][cH:2][c:5]2[c:10]([o+:6][c:8](-[c:21]3[cH:14][cH:11][cH:22][cH:12][cH:15]3)[cH:7][cH:20]2)[cH:26]1>>[cH:1]1[cH:9][cH:2][c:5]2[c:10]([cH:26]1)[O:6][C:8]([c:21]1[cH:14][cH:11][cH:22][cH:12][cH:15]1)=[CH:7][CH:20]2[O:13][c:24]1[c:18]([N+:23](=[O:3])[O-:4])[cH:17][cH:25][cH:16][cH:19]1", "epd": [["LP-/Pi+", [3], [23, 3]], ["Pi-/Pi+", [18, 23], [24, 18]], ["Pi-/Sigma+", [13, 24], [13, 20]], ["Pi-/Pi+", [20, 7], [7, 8]], ["Pi-/LP+", [8, 6], [6]]]}
{"reaction_name": "Mixed anhydride formation", "rsmi": "[O-:2][C:5]([CH3:3])=[O:7].[O:1]([C:9]([Cl:4])=[O:8])[CH2:10][CH3:6]>>[Cl-:4].[O:1]([C:9]([O:2][C:5]([CH3:3])=[O:7])=[O:8])[CH2:10][CH3:6]", "epd": [["LP-/Sigma+", [2], [2, 9]], ["Pi-/LP+", [8, 9], [8]], ["LP-/Pi+", [8], [8, 9]], ["Sigma-/LP+", [4, 9], [4]]]}
{"reaction_name": "α-Halosulfone ring-contraction rearrangement", "rsmi": "[CH3:1][CH:2]([Cl:3])[S:7](=[O:4])(=[O:5])[CH2:9][H:6].[O-:8][H:10]>>[CH3:1][CH:2]=[CH2:9].[Cl-:3].[O:4]=[S:7]=[O:5].[O:8]([H:6])[H:10]", "epd": [["LP-/Sigma+", [8], [6, 8]], ["Sigma-/LP+", [6, 9], [9]], ["LP-/Sigma+", [9], [2, 9]], ["Sigma-/LP+", [2, 3], [3]], ["Sigma-/Pi+", [7, 9], [2, 9]], ["Sigma-/LP+", [2, 7], [7]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[O-:5][c:6]1[cH:23][cH:17][c:20]([CH3:11])[cH:18][cH:24]1.[cH:1]1[cH:2][cH:13][cH:4][c:7]2[c:3]1[N+:19]([CH3:9])=[CH:12][C:10]2=[CH:8][c:16]1[cH:14][cH:21][cH:25][cH:22][cH:15]1>>[cH:1]1[cH:2][cH:13][cH:4][c:7]2[c:3]1[n:19]([CH3:9])[cH:12][c:10]2[CH:8]([O:5][c:6]1[cH:23][cH:17][c:20]([CH3:11])[cH:18][cH:24]1)[c:16]1[cH:14][cH:21][cH:25][cH:22][cH:15]1", "epd": [["LP-/Sigma+", [5], [5, 8]], ["Pi-/Pi+", [8, 10], [10, 12]], ["Pi-/LP+", [12, 19], [19]]]}
{"reaction_name": "Addition to sulfonyl isocyanates", "rsmi": "[NH:1]1[CH:9]([C:18](=[O:12])[O-:16])[CH2:14][CH2:17][CH2:10]1.[O:2]=[S:6](=[O:3])([N:13]=[C:11]=[O:15])[c:20]1[cH:7][cH:4][c:19]([CH3:21])[cH:5][cH:8]1>>[NH+:1]1([C:11]([N-:13][S:6](=[O:2])(=[O:3])[c:20]2[cH:7][cH:4][c:19]([CH3:21])[cH:5][cH:8]2)=[O:15])[CH:9]([C:18](=[O:12])[O-:16])[CH2:14][CH2:17][CH2:10]1", "epd": [["LP-/Sigma+", [1], [1, 11]], ["Pi-/LP+", [11, 13], [13]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[O:1]=[S:6](=[O:2])([C:8]([F:27])([F:28])[F:29])[c:23]1[cH:17][c:7]2[n+:11]([O-:3])[o:26][n:15][c:32]2[c:21]([N+:16]([O-:13])=[O:19])[cH:24]1.[S:4]1(=[O:30])(=[O:31])[c:18]2[c:9]([cH:14][cH:5][cH:20][cH:12]2)[C:25]([O-:10])=[N:22]1>>[O:1]=[S:6](=[O:2])([C:8]([F:27])([F:28])[F:29])[C:23]1=[CH:24][C:21](=[N+:16]([O-:13])[O-:19])[c:32]2[c:7]([n+:11]([O-:3])[o:26][n:15]2)[CH:17]1[N:22]1[S:4](=[O:30])(=[O:31])[c:18]2[c:9]([cH:14][cH:5][cH:20][cH:12]2)[C:25]1=[O:10]", "epd": [["LP-/Pi+", [10], [25, 10]], ["Pi-/Sigma+", [22, 25], [22, 17]], ["Pi-/Pi+", [17, 23], [23, 24]], ["Pi-/Pi+", [24, 21], [21, 16]], ["Pi-/LP+", [16, 19], [19]]]}
{"reaction_name": "Glycal oxocarbenium rearrangement", "rsmi": "[CH:1]1=[CH:6][O:4][CH:7]([Cl:3])[CH:5]([H:9])[CH:2]1[H:8]>>[CH:1]1([H:8])[CH:2]=[CH:5][CH:7]([H:9])[O:4][CH+:6]1.[Cl-:3]", "epd": [["Pi-/Sigma+", [1, 6], [1, 8]], ["Sigma-/LP+", [2, 8], [2]], ["LP-/Pi+", [2], [2, 5]], ["Sigma-/LP+", [3, 7], [3]], ["Sigma-/Sigma+", [5, 9], [7, 9]]]}
{"reaction_name": "Michael addition", "rsmi": "[N:9]1([c:13]2[c:36]([CH3:15])[cH:29][c:24]([CH3:22])[cH:32][c:39]2[CH3:18])[CH:28]=[CH:27][N:10]([c:14]2[c:37]([CH3:16])[cH:30][c:25]([CH3:23])[cH:31][c:38]2[CH3:17])[C:42]1=[CH2:26].[O:1]=[C:40]1[N:5]([CH3:33])[C:35](=[O:7])[N:6]([CH3:34])[C:41](=[O:2])[C:19]1=[CH:21][c:8]1[cH:43][cH:3][c:20]([O:12][CH3:11])[cH:4][cH:44]1>>[O-:1][c:40]1[n:5]([CH3:33])[c:35](=[O:7])[n:6]([CH3:34])[c:41](=[O:2])[c:19]1[CH:21]([c:8]1[cH:43][cH:3][c:20]([O:12][CH3:11])[cH:4][cH:44]1)[CH2:26][c:42]1[n+:9](-[c:13]2[c:36]([CH3:15])[cH:29][c:24]([CH3:22])[cH:32][c:39]2[CH3:18])[cH:28][cH:27][n:10]1-[c:14]1[c:37]([CH3:16])[cH:30][c:25]([CH3:23])[cH:31][c:38]1[CH3:17]", "epd": [["LP-/Pi+", [9], [42, 9]], ["Pi-/Sigma+", [26, 42], [26, 21]], ["Pi-/Pi+", [21, 19], [19, 40]], ["Pi-/LP+", [40, 1], [1]]]}
